US04772614
7-Chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride (9.2 g) was added portionwise to a stirred solution of benzylamine (10.5 ml) in absolute alcohol (300 ml). The mixture was stirred at ambient temperature for 24 hours, then evaporated to dryness. The residue was crystallised from industrial methylated spirit to give the novel compound N-benzyl-7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonamide, m.p. 208°-210°.

reactant | 7-Chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride | 9.2 g | ClC1=CC=C2C(C(=CN(C2=C1)C)S(=O)(=O)Cl)=O | C10H7Cl2NO3S
reactant | benzylamine | 10.5 ml | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CN(C2=CC(=CC=C2C1=O)Cl)C | C17H15ClN2O3S
